US08293767B2
Stage 3: Preparation of 4-(2,6-dichlorobenzoylamino)-1H-pyrazole-3-carboxylic acid methyl ester
A solution of 4-amino-1H-pyrazole-3-carboxylic acid methyl ester (0.634 Kg, 4.49 mol, 1 wt) in 1,4-dioxane (8.90 L, 9 vol) under nitrogen was treated with triethylamine (0.761 L, 5.46 mol, 1.2 vol) followed by 2,6-dichlorobenzoyl chloride (0.710 L, 4.96 mol, 0.72 vol) such that the internal temperature was maintained in the range 20 to 25° C. Residual 2,6-dichlorobenzoyl chloride was washed in with a line rinse of 1,4-dioxane (0.990 L, 1 vol) and the reaction mixture stirred at 18 to 25° C. until complete (16 hours) by TLC analysis (eluent: ethyl acetate:heptanes 3:1; Rf amine 0.25, Rf product 0.65). The reaction mixture was filtered, the filter-cake washed with 1,4-dioxane (2×0.990 L, 2×1 vol) and the combined filtrates (red) progressed to Stage 4 without further isolation.

reactant | 4-amino-1H-pyrazole-3-carboxylic acid methyl ester | 4.49 mol, 0.634 Kg | COC(=O)C1=NNC=C1N | C5H7N3O2
reactant | triethylamine | 5.46 mol, 0.761 L | C(C)N(CC)CC | C6H15N
reactant | 2,6-dichlorobenzoyl chloride | 4.96 mol, 0.710 L | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
solvent | 1,4-dioxane | 8.90 L | O1CCOCC1 | C4H8O2
product | 4-(2,6-dichlorobenzoylamino)-1H-pyrazole-3-carboxylic acid methyl ester | COC(=O)C1=NNC=C1NC(C1=C(C=CC=C1Cl)Cl)=O | C12H9Cl2N3O3
